US08084448B2
A. N-(Aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycine
A solution of methyl N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)-N-{[(tert-butoxycarbonyl)amino]sulfonyl}glycinate (1.15 g, 1.84 mmol) in 20 mL of TFA/methylene chloride (1:1) is stirred at RT for 30 min. The solvent is removed under reduced pressure and the residue is dissolved in methylene chloride and the solvent evaporated (4×) to give the title compound.

reactant | methyl N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)-N-{[(tert-butoxycarbonyl)amino]sulfonyl}glycinate | 1.84 mmol, 1.15 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC(OCC[Si](C)(C)C)=O)N(CC(=O)OC)S(=O)(=O)NC(=O)OC(C)(C)C | C28H40N2O10SSi
solvent | TFA methylene chloride | 20 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | N-(Aminosulfonyl)-N-(2-(benzyloxy)-4-{2-oxo-2-[2-(trimethylsilyl)ethoxy]ethoxy}phenyl)glycine | NS(=O)(=O)N(CC(=O)O)C1=C(C=C(C=C1)OCC(OCC[Si](C)(C)C)=O)OCC1=CC=CC=C1 | C22H30N2O8SSi
